reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])=[C:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],50.9629203125471
[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6]>>[H:6][H:11].[O:1]([C:2]([C:3]([C:4](=[O:5])[H:12])([H:9])[H:10])([H:7])[H:8])[H:13],66.3568971718801
[C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]1[H:14])([H:8])([H:9])[H:10].[C:5](=[C:6]=[C:7]([H:13])[H:17])([H:15])[H:16]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],29.948943384807393
[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:3][H:10])=[C:4]([H:11])[H:12])([H:6])([H:7])[H:8].[O:5]([H:9])[H:13],73.2788939721023
[O:1]([C:2]([C:3]([C:4][H:11])([H:9])[H:10])([H:7])[H:8])[H:6].[O:5]([H:12])[H:13]>>[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6],3.687245903042097
[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N+:4](=[C-:5][O:6][H:10])[H:9])([H:7])[H:8],77.2655474536624
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C-:4]([N:5]([C+:6]([O:7][H:13])[H:16])[H:15])[H:14])[H:11])([H:8])([H:9])[H:10],62.6237093048768
[C:1]([C:2]([C:3](=[O:4])[H:11])([H:9])[H:10])([C:5](=[O:6])[H:12])([H:7])[H:8]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],88.37902495758075
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23>>[C:1]1([H:7])([H:8])[C@:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:9])[N:6]=[C:5]1[H:13],57.139808027345296
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[C:5]1([H:10])([H:11])[C:6]([H:9])=[N:7]1.[N:1]#[C:2][C:3](=[O:4])[H:8],88.7597401164136
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([H:9])[H:10])([H:6])[H:7].[C:3]([C:4]([H:12])([H:13])[H:14])(=[C:5]([H:16])[H:17])[H:11].[H:8][H:15],96.993062120614
[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[O:7]1)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3](=[O+:7][C-:6]([C:5]([C:4]([H:12])([H:13])[H:16])([H:14])[H:15])[H:17])[H:11])([H:9])[H:10])[H:8],120.557629417303
[N:1]([C:2](=[O:3])[O:4][C-:5]=[N+:6]([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8],57.36997073624979
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([O:5][C:4](=[C:3]([H:11])[H:12])[C:6]([O:7][H:15])([H:13])[H:14])([H:9])[H:10])[H:8],77.73716201920729
[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C@@:3]([O:4][H:7])([C:5]#[C:6][H:10])[H:8])[H:9],43.4906795828238
[C:1]([O+:3]=[C-:2][N:4]([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[O:3])[N:4]([H:8])[H:9])([H:5])([H:6])[H:7],52.186120846720605
[C:1]([C:2]([O:3][C:4](=[N:5][H:13])[N+:7]#[C-:6])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],34.741694588875205
[C:1]([C:2]([C:3]([C:4](=[C:5]=[N:6][H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],68.71051734440196
[C:1]([O+:2]=[C-:3][O:4][C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],44.35442282260221
[N:1](=[C:2]1\[O:3][C:4]1([H:10])[H:11])\[H:9].[O:5]=[C:6]([O:7][H:8])[H:12]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],9.525967248459196
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:7]([O:6][C:5]([C:4]([O:3][H:17])([H:13])[H:14])([H:15])[H:16])([H:18])[H:19])([H:11])[H:12])([H:8])([H:9])[H:10],98.8042527418705
[C:1]([C:2](=[N+:3]=[C-:4][O:5][C:6]([H:13])([H:14])[H:15])[H:11])([H:7])([H:8])[H:9].[H:10][H:12]>>[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],15.727276948428198
[O:1](/[C:6](=[C:5]1\[C:2]([H:8])([H:9])[C@:3]1([O:4][H:11])[H:10])[H:12])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7],76.0939362411484
[O:1]([C:6]([C@:4]1([O:5][H:12])[C:3]([H:10])([H:11])[C:2]([H:9])=[C:7]1[H:15])([H:13])[H:14])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],87.9724566705562
[C:1]([O:4][H:13])([H:7])([H:8])[H:9].[C:2](=[C:3]([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],84.8399426615955
